US07148230B2
4.0M HCl in Dioxane (4.0 ml) was added to a suspension of tert-butyl 4-[(4-chloro-7-methoxyquinazolin-6-yl)oxy]piperidine-1-carboxylate (2.62 g) and 3-chloro-2-fluoroaniline (1.08 g) in iso-propanol (50 ml). The reaction mixture was stirred and heated at 100° C. for 2 hours. The yellow precipitate was filtered hot and washed with iso-propanol followed by diethylether and dried under vacuum to give 6-(piperidin-4-yloxy)-4-(3-chloro-2-fluoroanilino)-7-methoxyquinazoline as a di-hydrochloride salt (2.38 g); 1H NMR Spectrum: (DMSO d6) 1.84–1.99 (m, 2H), 2.22–2.33 (m, 2H), 3.12–3.33 (m, 4H), 4.00 (s, 3H), 5.08 (m, 1H), 7.34 (t, 1H), 7.40 (s, 1H), 7.50 (t, 1H), 7.62 (t, 1H), 8.80 (s, 1H), 8.84–8.94 (m, 2H), 8.99–9.11 (m, 1H); Mass Spectrum: (M+H)+ 403.

reactant | HCl | 4.0M | Cl | ClH
reactant | tert-butyl 4-[(4-chloro-7-methoxyquinazolin-6-yl)oxy]piperidine-1-carboxylate | 2.62 g | ClC1=NC=NC2=CC(=C(C=C12)OC1CCN(CC1)C(=O)OC(C)(C)C)OC | C19H24ClN3O4
reactant | 3-chloro-2-fluoroaniline | 1.08 g | ClC=1C(=C(N)C=CC1)F | C6H5ClFN
solvent | Dioxane | 4.0 ml | O1CCOCC1 | C4H8O2
solvent | iso-propanol | 50 ml | C(C)(C)O | C3H8O
product | 6-(piperidin-4-yloxy)-4-(3-chloro-2-fluoroanilino)-7-methoxyquinazoline | N1CCC(CC1)OC=1C=C2C(=NC=NC2=CC1OC)NC1=C(C(=CC=C1)Cl)F | C20H20ClFN4O2
